US04908363
4.47 g of 1,3-bis(benylideneamino)-2-morpholinoimidazolium tetrafluoroborate are suspended in 50 ml of methanol. A solution of 1.3 g of potassium cyanide in 20 ml of water is added dropwise within 15 minutes while cooling in an ice-bath, whereby a yellow solution results. The solution is stirred at room temperature for an additional 15 minutes, 150 ml of water are added and the mixture is extracted three times with 30 ml of methylene chloride each time. The combined methylene chloride extracts are dried over sodium sulfate, filtered and evaporated in a vacuum. The yellow oil which remains behind as the residue is treated with 70 ml of ice-cold water. Then the mixture is acidified (pH about 1) with 2N hydrochloric acid and subsequently extracted three times with diethyl ether. The colorless, acidic-aqueous phase is treated with 2N sodium hydroxide solution up to an alkaline reaction (pH about 8-9). The resulting pale yellow precipitate is removed by filtration and reprecipitated from methanol/water. There is obtained 1-benzylideneamino-2-morpholinoimidazole of m.p. 59°-61°.

reactant | 1,3-bis(benylideneamino)-2-morpholinoimidazolium tetrafluoroborate | 4.47 g | F[B-](F)(F)F.C(C1=CC=CC=C1)=N[N+]1=C(N(C=C1)N=CC1=CC=CC=C1)N1CCOCC1
reactant | potassium cyanide | 1.3 g | [C-]#N.[K+]
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | 1-benzylideneamino-2-morpholinoimidazole | C(C1=CC=CC=C1)=NN1C(=NC=C1)N1CCOCC1 | C14H16N4O
